US07776875B2
Preparation of Intermediate racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2-chloro-5-fluoro-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
In a manner similar to the method described in Example 1e, E/Z-6-chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (3 g, 5.76 mmol) was reacted with 1-(2-chloro-5-fluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene (23 mmol) in toluene to give the title compound as a white solid (400 mg).

reactant | Z-6-chloro-3-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-benzylidene]-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 5.76 mmol, 3 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O | C26H27Cl2NO6
reactant | 1-(2-chloro-5-fluoro-phenyl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | 23 mmol | ClC1=C(C=C(C=C1)F)C=NC(=C)O[Si](C)(C)C | C12H15ClFNOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | racemic (2′R,3S,4′R)-6-chloro-4′-[5-chloro-2-(1-ethoxycarbonyl-1-methyl-ethoxy)-phenyl]-2′-(2-chloro-5-fluoro-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 400 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C)(C)C(=O)OCC)=O)C1=C(C=CC(=C1)F)Cl)=O | C30H26Cl3FN2O5
